US04638005
1-Methyl-3-(2-hydroxybutyl)pyrazinium iodide (3400)
3.1 g of 2-(2-hydroxybutyl)pyrazine (3300) was dissolved in 30 ml of methanol, 10 ml of methyl iodide added and the solution refluxed for 3 days. It was then concentrated, taken up in water and extracted with chloroform. The aqueous solution was concentrated and chromatographed (Biogel P-2/water). Freeze-drying gave 4.6 g of product (3400) as a yellow solid. It was recrystallized from ethyl acetate/ethanol, m.p. 108°-9°. UV H2O max: 227 (4.11), 282 (3.85). 13C NMR: 163.30, S (C3); 150.63, D (C5); 138.77, D, 136.12, D (C2, C6); 72.66, D (CHOH); 49.93, Q (NCH3); 43.02, T, 30.11, T (--CH2 --); 9.97, Q (CH3). 1H NMR: 9.35, D, T (H6); 8.95, S (H2); 8.85, D (H5); 4.49, S (NCH3); 4.11, M (CHOH); 3.39-3.14, M (ArCH2); 1.75-1.52, M (--CH2 --); 0.99, T (CH3).

reactant | 2-(2-hydroxybutyl)pyrazine | 3.1 g | OC(CC1=NC=CN=C1)CC | C8H12N2O
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | methanol | 30 ml | CO | CH4O
product | 1-Methyl-3-(2-hydroxybutyl)pyrazinium iodide | 4.6 g | [I-].C[N+]1=CC(=NC=C1)CC(CC)O | InChI=1S/C9H15N2O.HI/c1-3-9(12)6-8-7-11(2)5-4-10-8;/h4-5,7,9,12H,3,6H2,1-2H3;1H/q+1;/p-1
